Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C-:2]([N+:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])([H:11])[H:13])[H:12])([H:8])([H:9])[H:10],87.0377223134714
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]1([H:8])[C:2](=[O:3])[C:4]([H:10])([H:11])[O:5][C@:6]1([N:7]([H:9])[H:13])[H:12],40.788029696325104
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([C:2]([C+:3]([C:4]([H:12])([H:13])[H:14])[O:6][H:18])([H:10])[H:11])([H:7])[H:8].[C:5]([H:9])([H:15])([H:16])[H:17],87.3934357679065
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]2=[C:5]([H:10])[N:7]=[C:6]12,92.67837744167521
[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[C:3]([H:10])=[O+:4][N-:5][N:6]1[H:8])([H:7])[H:9],86.24013321961279
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](/[C:2](=[N:4]\[H:14])[H:10])([H:7])([H:8])[H:9].[C:3]([H:11])([H:12])([H:13])[H:15],77.153412406715
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([O:5][H:14])([C:6]([H:13])([H:15])[H:16])[O:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],82.32317850400821
[C-:3]#[C:4][C+:5]=[N:6][H:7].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],31.615984859421495
[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6]>>[C:3](#[N:4])[N+:6]#[C-:5].[O+:1]#[C-:2],86.4369437901836
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:12].[O+:1]#[C-:2],62.3856535180265
[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8]>>[C:3](=[N+:4]=[N-:5])([H:7])[H:9].[N:1](=[C:2]=[O:6])[H:8],45.7414930959523
[C:1]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:13])[H:14])([H:11])[H:12]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],86.32484824802249
[O:1]([C@@:2]1([H:9])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[C:6][C:7]1([H:10])[H:15])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],23.602001423192306
[C:1]([C:2]([C:3](=[C:4]([H:15])[H:16])/[N:5]=[C:6](\[O:7][H:13])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],54.6972430042118
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4][N:5]([H:12])[C:7]#[C:6]1)[H:8],80.356011820595
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[N:5][C:6]([H:15])([H:16])[H:17])([H:13])[H:14],85.9614096123766
[C:1](=[C:6]([C:5]([O:4][C:3]([C:2][H:9])([H:10])[H:11])([H:12])[H:13])[H:14])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],6.9758468316071855
[o:1]1[c:2]([H:7])[c:3]([C:4]#[C:5][H:8])[o:6]1>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],52.935397106610694
[O-:1][C:2](=[C+:3][H:7])[C@@:6]1([H:11])[N:4]([H:8])[C:5]1([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11],5.040099736081096
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[O:4]([H:13])[H:16],45.822790342088396
[O:1]([C-:2]1[C:3]([H:9])([H:10])[C+:4]([O:5][H:8])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7],8.182689723748396
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([N:4]([H:13])[H:14])[H:12].[C:5](#[N:6])[H:9]>>[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],48.0411739548315
[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C-:3]=[C:4]=[C+:5][H:9])[H:8])([H:6])[H:7],65.7872527366053
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C-:2]([H:9])[C:3]([H:10])([H:11])[C:4]2=[O+:5][C@@:6]12[H:12],94.11817363759458
[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9],1.2287987161505853
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:13][H:16],62.928440485142495
